US05714627
Into an autoclave made of SUS316 having an internal volume of 100 ml were charged above-prepared phenyl benzoate 5.64 g (28.4 mmole), dimethyl carbonate 20 g (222 mmole) and titanium tetraphenoxide 0.13 g (0.30 mmole). The pressure was elevated to 20 kg/cm2 with nitrogen, and then the contents were reacted for three hours at 150° C. After completing the reaction, the reaction mixture was analyzed by gas chromatography. As a result, the yield of methyl phenyl carbonate was 75%, and the yield of diphenyl carbonate was 5%. Furthermore, at the same time, methyl benzoate was produced as a by-product with a yield of 80% (the yield is given in terms of phenyl benzoate)

reactant | phenyl benzoate | 28.4 mmole, 5.64 g | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C13H10O2
reactant | dimethyl carbonate | 222 mmole, 20 g | C(OC)(OC)=O | C3H6O3
reactant | methyl phenyl carbonate | C(OC)(OC1=CC=CC=C1)=O | C8H8O3
reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
catalyst | titanium tetraphenoxide | 0.30 mmole, 0.13 g | [O-]C1=CC=CC=C1.[O-]C1=CC=CC=C1.[O-]C1=CC=CC=C1.[O-]C1=CC=CC=C1.[Ti+4]
product | methyl benzoate | yield of 80% | C(C1=CC=CC=C1)(=O)OC | C8H8O2
